US08217064B2
2-(2,4′-Dichloro-6-cyclopropylmethoxy-biphenyl-4-yl)-4-methyl-pentanoic acid cyclopropylmethyl ester (0.18 g, 0.36 mmol) was dissolved in a mixture of EtOH and H2O (9 mL /1 mL) and KOH (0.2 g, 3.6 mmol) was added. The reaction mixture was refluxed for 2 h and after cooling the solvent was evaporated. Then, 6 N HCl was added to adjust the pH to 5 and the reaction mixture was extracted with EtOAc (3×10 mL). The organic phase was dried over MgSO4 and evaporated under reduced pressure to give 2-(2,4′-dichloro-6-cyclopropylmethoxy-biphenyl-4-yl)-4-methyl-pentanoic acid as a yellowish solid (0.15 g, 93%). M.p.=52-53° C. 1H NMR (300 MHz, CDCl3/TMS): δ 10.60 (br s, 1H), 7.37 (d, J=8.4 Hz, 1H), 7.22 (d, J=8.4 Hz, 1H), 7.07 (s, 1H), 6.83 (s, 1H), 3.75 (d, J=6.3 Hz, 2H), 3.63 (t, J=7.3 Hz, 1H), 1.99-1.93 (m, 1H), 1.74-1.65 (m, 1H), 1.59-1.51 (m, 1H), 1.11-1.00 (m, 1H), 0.94 (d, J=6.3 Hz, 6H), 0.54-0.40 (m, 2H), 0.22-0.12 (m, 2H). 13C NMR (75 MHz, CDCl3/TMS): δ 179.7, 157.2, 139.7, 134.0, 133.4, 133.1, 131.8, 128.5, 127.9, 121.6, 111.3, 73.3, 49.4, 42.0, 25.9, 22.6, 22.3, 10.0, 3.0.

reactant | 2-(2,4′-Dichloro-6-cyclopropylmethoxy-biphenyl-4-yl)-4-methyl-pentanoic acid cyclopropylmethyl ester | 0.36 mmol, 0.18 g | C1(CC1)COC(C(CC(C)C)C1=CC(=C(C(=C1)OCC1CC1)C1=CC=C(C=C1)Cl)Cl)=O | C26H30Cl2O3
reactant | KOH | 3.6 mmol, 0.2 g | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
solvent | H2O | 9 mL | O | H2O
product | 2-(2,4′-dichloro-6-cyclopropylmethoxy-biphenyl-4-yl)-4-methyl-pentanoic acid | 0.15 g, 93% | ClC1=C(C(=CC(=C1)C(C(=O)O)CC(C)C)OCC1CC1)C1=CC=C(C=C1)Cl | C22H24Cl2O3
